US04147805
2,2-Dimethylhex-1-ylamine--A solution of capronitrile (25 g., 0.26 mole) and methyl iodide (75 g., 0.53 Mole) in 80 ml. of dry toluene is warmed to 80° and treated gradually with a suspension of sodium amide (25.4 g., 0.65 mole) in 100 ml. of toluene at a rate sufficient to maintain general reflux. After addition is complete, the mixture is stirred and refluxed for an additional 2 hr. period, cooled and treated with 150 ml. of water. The organic layer is separated, washed with water and dried over magnesium sulfate. Concentration of the dried solution under reduced pressure and distillation of residual material affords an 81% yield of 2,2-dimethylcapronitrile.

reactant | 2,2-Dimethylhex-1-ylamine | CC(CN)(CCCC)C | C8H19N
reactant | capronitrile | 0.26 mole, 25 g | C(CCCCC)#N | C6H11N
reactant | methyl iodide | 0.53 Mole, 75 g | CI | CH3I
reactant | sodium amide | 0.65 mole, 25.4 g | [NH2-].[Na+]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethylcapronitrile | 81% yield | CC(C#N)(CCCC)C | C8H15N
